US04444583
(e) 2.5-Bis(difluoromethoxy)phenylsulfonamide
To a mixture of 30 ml of methylene chloride, 30 ml of water and 50 ml of 30% ammonia solution is slowly added a solution of 12.7 g of crude 2.5-bis(difluoromethoxy)phenylsulfonyl chloride in 150 ml of methylene chloride. The reaction mixture is stirred for 5 hours at room temperature. The organic phase is washed with water, dried over sodium sulfate and evaporated to a volume of about 40 ml. From the residue crystallise 10.7 g of 2.5-bis(difluoromethoxy)phenyl-sulfonamide with a melting point of 73°-74° C.

reactant | water | 30 ml | O | H2O
reactant | ammonia | 50 ml | N | H3N
reactant | 2.5-bis(difluoromethoxy)phenylsulfonyl chloride | 12.7 g | FC(OC1=C(C=C(C=C1)OC(F)F)S(=O)(=O)Cl)F | C8H5ClF4O4S
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2.5-Bis(difluoromethoxy)phenylsulfonamide | FC(OC1=C(C=C(C=C1)OC(F)F)S(=O)(=O)N)F | C8H7F4NO4S
